US04176194
Sodium hydride (0.5 g., 50% w/w suspension in mineral oil) was added gradually to a stirred solution of 4,4'-dichlorobenzophenone oxime (2.6 g.) in dry dimethylformamide (20 ml.) keeping the temperature below 30° C. After 30 minutes, chloroacetamide (0.9 g.) was added to the stirred solution keeping the temperature below 30° C. After 16 hours stirring at ambient temperature the mixture was poured into water (100 ml.) and the subsequent mixture extracted with ether. The combined extract was washed with water, dried (MgSO4) and evaporated. The residue (2.5 g.) was added to a column of dry chromatographic silica-gel [300 g., previously deactivated by addition of 10% w/w water and then equilibrated with 10% v/w of a mixture of toluene and acetone (10:1 v/w)]. The column was then eluted with the same mixture of toluene and acetone to give, after evaporation of solvent, a solid residue (1.5 g.). The solid was recrystallised from ethyl acetate/petrol giving di-(4-chlorophenyl)methyleneamino-oxyacetamide m.p. 141°-142° C. (1.1 g.) in 34% overall yield.

reactant | Sodium hydride | 0.5 g | [H-].[Na+]
reactant | 4,4'-dichlorobenzophenone oxime | 2.6 g | ClC1=CC=C(C(C2=CC=C(C=C2)Cl)=NO)C=C1 | C13H9Cl2NO
reactant | chloroacetamide | 0.9 g | ClCC(=O)N | C2H4ClNO
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | di-(4-chlorophenyl)methyleneamino-oxyacetamide | 1.1 g | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=NOCC(=O)N | C15H12Cl2N2O2
